US06403561B1
Preparation of 4-ethoxyindoline-2(R/S)-carboxylic Acid Butylamide
Methyl 4-ethoxyindoline-2(R/S)-carboxylate (0.84 g, 3.8 mmol) was dissolved in butylamine (40 ml), under nitrogen, and the solution was then stirred at reflux for three hours. After cooling the mixture, the remaining butylamine was removed under vacuum. The crude product was purified by chromatography on a column of silica gel, using a 5/5 petroleum ether/ethyl acetate mixture as eluent. A yellow solid was obtained.

reactant | Methyl 4-ethoxyindoline-2(R/S)-carboxylate | 3.8 mmol, 0.84 g | C(C)OC1=C2CC(NC2=CC=C1)C(=O)OC | C12H15NO3
solvent | butylamine | 40 ml | C(CCC)N | C4H11N
product | 4-ethoxyindoline-2(R/S)-carboxylic Acid Butylamide | C(CCC)NC(=O)C1NC2=CC=CC(=C2C1)OCC | C15H22N2O2
